US06329392B1
1-Benzoyl-3-[2-[4-(benzothiazole-2-carbonyl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.20 g, 0.46 mmol) and 4-(benzothiazole-2-carbonyl)-piperidine (0.11 g, 0.46 mmol), and sodium carbonate (0.098 g, 0.92 mmol) in tetrahydrofuran/water (15/4) (30 mL). Heat to reflux. After 4 days, cool to ambient temperature and evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane and 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10/1 ethyl acetate/methanol to give a residue. Combine the solid with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 82° C. to give the title compound: Rf=0.21 (silica gel, 10/1 ethyl acetate/methanol); mp; 74-76° C.

reactant | 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 0.46 mmol, 0.20 g | C(C1=CC=CC=C1)(=O)N1CC(CC1)(CCS(=O)(=O)C)C1=CC(=C(C=C1)OC)OC | C22H27NO5S
reactant | 4-(benzothiazole-2-carbonyl)-piperidine | 0.46 mmol, 0.11 g | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | sodium carbonate | 0.92 mmol, 0.098 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Benzoyl-3-[2-[4-(benzothiazole-2-carbonyl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)OC)OC)CCN1CCC(CC1)C(=O)C=1SC2=C(N1)C=CC=C2 | C34H37N3O4S
